US20010016257A1
HDDA—1,6-hexanediol diacrylate (available from UCB Chemicals Corp., Augustana, S.C.)
HPA—an isometric mixture of 2-hydroxypropyl acrylate and 3-hydroxypropyl acrylate (available as ROCRYL 430 from Rohm and Haas, Philadelphia, Pa.)

reactant | 2-hydroxypropyl acrylate | C(C=C)(=O)OCC(C)O | C6H10O3
reactant | 3-hydroxypropyl acrylate | C(C=C)(=O)OCCCO | C6H10O3
product | HDDA 1,6-hexanediol diacrylate | C=CC(=O)OCCCCCCOC(=O)C=C.C(C=C)(=O)OCCCCCCOC(C=C)=O | 2C12H18O4
